US04943629
A solution of 330 mg of 2,5-anhydro-1-deoxy-1-(diethoxyphosphinyl)-1-fluoro-3,4-bis-O-(phenylmethyl)-D-glucitol D-glucitol and D-mannitol, diphenyl phosphate mixture in 20 ml of methanol was hydrogenated over palladium hydroxide catalyst until hydrogen uptake ceased. Filtration and removal of the solvent gave a yellow oil. This oil was purified by flash chromatography taking 20 ml fractions Fractions 1-26 were eluted with 3% methanol in dichloromethane and after evaporation gave 135 mg of 2,5-anhydro-1-deoxy-1-(diethoxyphosphinyl)-1-fluoro-D-mannitol, 6-(diphenyl phosphate).

reactant | 2,5-anhydro-1-deoxy-1-(diethoxyphosphinyl)-1-fluoro-3,4-bis-O-(phenylmethyl)-D-glucitol D-glucitol | 330 mg | C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O.C(C)OP(=O)(C([C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)CO)F)OCC
reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | diphenyl phosphate | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 2,5-anhydro-1-deoxy-1-(diethoxyphosphinyl)-1-fluoro-D-mannitol | 135 mg | C(C)OP(=O)(C([C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)F)OCC | C10H20FO7P
